US06852350B2
To a mixture of ethyl chloroformate (0.86 g, 7.9 mmol) and 2,5-dimethyl-furan-3-thiol (1 g, 7.8 mmol) in methyl ethyl ketone (10 ml) was added triethylamine (0.8 g, 7.9 mmol). The mixture was cooled in ice and stirred for 3 hours. After reaching room temperature water (10 g) was added to the mixture to dissolve the triethylammonium chloride which was formed during the reaction. Concentrated hydrochloric acid (2 g) was added to neutralise the excess triethylamine. The organic layer was separated and washed with a saturated sodium hydrogen carbonate solution (10 g), water (10 g) and finally a sodium sulphate solution (10 g). After evaporation of the solvent the residue was analysed and confined by NMR spectroscopy as O-ethyl S-(2,5-dimethyl-3-furyl) thiocarbonate yield 89% (1.4 g, 7 mmol) purity 91%.

reactant | ethyl chloroformate | 7.9 mmol, 0.86 g | ClC(=O)OCC | C3H5ClO2
reactant | 2,5-dimethyl-furan-3-thiol | 7.8 mmol, 1 g | CC=1OC(=CC1S)C | C6H8OS
reactant | triethylammonium chloride | [Cl-].C(C)[NH+](CC)CC
reactant | hydrochloric acid | 2 g | Cl | ClH
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 10 g | O | H2O
solvent | triethylamine | 7.9 mmol, 0.8 g | C(C)N(CC)CC | C6H15N
product | O-ethyl S-(2,5-dimethyl-3-furyl) thiocarbonate | 7 mmol, 1.4 g, yield 89% | C(OCC)(SC1=C(OC(=C1)C)C)=O | C9H12O3S
